US07307073B2
2-Amino-2-methyl-1-propanol (9.54 ml, 0.10 mol) was added to a stirred solution of ethyl glyoxylate (50% soln. in toluene, 21 ml, 0.10 mol) in dichloromethane (100 ml) in the presence of 4Å molecular sieves. The reaction was stirred under nitrogen for 16 h whereupon the system was filtered through Dicalite® and washed with more dichloromethane. Evaporation of the solvent in vacuo gave (1,1-dimethyl-2-hydroxy-ethylimino)-acetic acid ethyl ester (17.0 g) as an oil (EIMS: m/z=174 [M+H]+). 2-Fluorobenzoyl chloride (0.60 ml, 5.00 mmol) and then pyridine (0.96 ml, 12.0 mmol) were added to a stirred solution of the above described ethyl ester (0.87 g, 5.00 mmol) in dichloromethane (8 ml) cooled to ˜5° C. and under nitrogen. After 1.5 h water (20 ml) was added, the layers separated and the aqueous phase washed with more dichloromethane (30 ml). The combined organic phase was then washed with 1N hydrochloric acid (25 ml) before being dried (MgSO4), filtered and solvent removed in vacuo. The crude residue was purified by chromatography on silica using dichloromethane as eluant, to give 3-(2-fluorobenzoyl)4,4-dimethyl-oxazolidine-2-carboxylic acid ethyl ester (0.64 g) as an oil, EIMS: m/z=296 [M+H]+

reactant | 2-Amino-2-methyl-1-propanol | 0.10 mol, 9.54 ml | NC(CO)(C)C | C4H11NO
reactant | ethyl glyoxylate | 0.10 mol, 21 ml | C(C=O)(=O)OCC | C4H6O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (1,1-dimethyl-2-hydroxy-ethylimino)-acetic acid ethyl ester | 17.0 g | C(C)OC(C=NC(CO)(C)C)=O | C8H15NO3
